US08278482B2
A solution of S-2-(Benzyloxycarbonylamino)-2-methylpropyl ethanethioate (4.75 g, 16.9 mmol) in methanol (35 mL) was mixed with a 5 N sodium hydroxide solution (3 equiv, 50 mL, 50.7 mmol) and stirred at RT for 15 min. TLC (20% ethyl acetate in hexanes) analysis of reaction mixture indicated all the starting material was consumed. The organic solvent was removed under reduced pressure and the resulting aqueous solution was made acidic (˜pH 3) with 6 N HCl (9 mL) while cooled in an ice bath. The aqueous suspension was extracted with ethyl acetate (3×100 mL) and the combined organic layer dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give benzyl 1-mercapto-2-methylpropan-2-ylcarbamate as a pale yellow oil, 4.6 g. This material was used without any further purification.

reactant | S-2-(Benzyloxycarbonylamino)-2-methylpropyl ethanethioate | 16.9 mmol, 4.75 g | C(C)(SCC(C)(C)NC(=O)OCC1=CC=CC=C1)=O | C14H19NO3S
reactant | sodium hydroxide | 50.7 mmol, 5 N, 50 mL, 3 equiv | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 35 mL | CO | CH4O
product | benzyl 1-mercapto-2-methylpropan-2-ylcarbamate | SCC(C)(C)NC(OCC1=CC=CC=C1)=O | C12H17NO2S
